US04367238
Hydrogen gas was introduced to a mixture of 3-[2-methoxy-3-(o-tolyloxy)phenyl]acrylic acid (17 g), palladium on carbon (5%, 3.4 g) and a small amount of glacial acetic acid in dioxane (200 ml) with stirring. The reaction mixture was filtered, and the filtrate was evaporated. The residue was pulverized with n-hexane to give 3-[2-methoxy-3-(o-tolyloxy)phenyl]propionic acid (15.4 g). mp 71°-75° C.

reactant | Hydrogen | [H][H] | H2
reactant | 3-[2-methoxy-3-(o-tolyloxy)phenyl]acrylic acid | 17 g | COC1=C(C=CC=C1OC1=C(C=CC=C1)C)C=CC(=O)O | C17H16O4
reactant | acetic acid | C(C)(=O)O | C2H4O2
catalyst | palladium on carbon | 3.4 g | [Pd] | Pd
solvent | dioxane | 200 ml | O1CCOCC1 | C4H8O2
product | 3-[2-methoxy-3-(o-tolyloxy)phenyl]propionic acid | 15.4 g | COC1=C(C=CC=C1OC1=C(C=CC=C1)C)CCC(=O)O | C17H18O4
